US07211573B2
4.30 g (9.50 mmol) racemic (2S,3R and 2R,3S)-2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-pentanoic acid in 30 ml methanol were hydrogenated with 1.12 g Raney-Nickel. Filtration and removal of the solvent by distillation yielded 3.95 g (98%) (2S,3R and 2R,3S)-3-(2-amino-4-fluoro-phenoxy)-2-dibenzylamino-pentanoic acid as foam, MS m/e (%): 423.1 (M+H+, 100).

reactant | 2-dibenzylamino-3-(4-fluoro-2-nitro-phenoxy)-pentanoic acid | C(C1=CC=CC=C1)N(C(C(=O)O)C(CC)OC1=C(C=C(C=C1)F)[N+](=O)[O-])CC1=CC=CC=C1 | C25H25FN2O5
solvent | methanol | 30 ml | CO | CH4O
catalyst | Raney-Nickel | 1.12 g | [Ni] | Ni
product | 3-(2-amino-4-fluoro-phenoxy)-2-dibenzylamino-pentanoic acid | NC1=C(OC(C(C(=O)O)N(CC2=CC=CC=C2)CC2=CC=CC=C2)CC)C=CC(=C1)F | C25H27FN2O3
